US05691364
To acetonitrile (5 mL) was added 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]-5-hydroxybenzoic acid, ethyl ester (0.20 g, 0.47 mmol), cesium carbonate (0.31 g, 0.94 mmol), and iodomethane (0.13 g, 0.94 mmol). After stirring for 15 hours the mixture was partitioned with ethyl acetate and water. The organic layer was dried (MgSO4) and the solvent was removed in vacuo to give 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]-5-methoxybenzoic acid, ethyl ester; NMR (CDCl3) 7.3 (m,6), 6.8 (s,1), 4.4 (q,2), 3.8 (s,3), 2.4 (s,3), 1.4 (t,3) ppm.

reactant | 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]-5-hydroxybenzoic acid, ethyl ester | 0.47 mmol, 0.20 g | C(#N)C=1C=C(OC2=C(C(=C(C(=N2)OC=2C=C(C(=O)OCC)C=C(C2)O)F)C)F)C=CC1 | C22H16F2N2O5
reactant | cesium carbonate | 0.94 mmol, 0.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.94 mmol, 0.13 g | IC | CH3I
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]-5-methoxybenzoic acid, ethyl ester | C(#N)C=1C=C(OC2=C(C(=C(C(=N2)OC=2C=C(C(=O)OCC)C=C(C2)OC)F)C)F)C=CC1 | C23H18F2N2O5
